US05972951
1-Acetyl-2,3-dihydro-6-iodo-5-[(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)methylthio]-1H-indole
1-Acetyl-2,3-dihydro-6-iodo-5-(pyridin-4-ylmethylthio)-1H-indole (D50) (0.390 g, 0.951 mmol) was dissolved in dry DMF (5 ml) and was treated with methyl iodide (0.089 ml, 1.430 mmol) with stirring. After 24 hours the reaction mixture was evaporated under reduced pressure and was triturated with ethyl acetate (~20 ml). The resultant brown solid was then filtered off, washed with diethyl ether and dried in vacuo (0.513 g). The solid was then redissolved in a mixture of ethanol (20 ml) and water (10 ml) and was cooled to 0° C. Sodium borohydride (0.069 g, 1.824 mmol) was then added. After 0.5 h a further amount of sodium borohydride (0.035 g, 0.912 mmol) was added. The reaction mixture was then allowed to warm to room temperature. After 1.5 hours the reaction mixture was treated with sodium bicarbonate solution (~15 ml) and was partitioned between dichloromethane and water. The aqueous layer was then extracted with dichloromethane (1X) and the combined organic layers were dried (Na2SO4) and evaporated under reduced pressure to give a yellow solid which was purified by silica-gel chromatography (5% MeOH/CH2Cl2 as eluant) to give the title compound as an off white solid (0.208 g, 53%).

reactant | 1-Acetyl-2,3-dihydro-6-iodo-5-(pyridin-4-ylmethylthio)-1H-indole | 0.951 mmol, 0.390 g | C(C)(=O)N1CCC2=CC(=C(C=C12)I)SCC1=CC=NC=C1 | C16H15IN2OS
reactant | methyl iodide | 1.430 mmol, 0.089 ml | CI | CH3I
reactant | Sodium borohydride | 1.824 mmol, 0.069 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.912 mmol, 0.035 g | [BH4-].[Na+]
reactant | sodium bicarbonate | ~15 ml | C([O-])(O)=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Acetyl-2,3-dihydro-6-iodo-5-[(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)methylthio]-1H-indole | C(C)(=O)N1CCC2=CC(=C(C=C12)I)SCC=1CCN(CC1)C | C17H21IN2OS
